US07560569B2
In a similar manner to Example 87, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 5-adamantyl-2-amino-1,3,4-thiadiazole (80.0 mg) were used to obtain (2S,4S)-1-[[N-[4-[N-(5-adamantyl-1,3,4-thiadiazol-2-yl)amino]carbonylbicyclo[2.2.2)oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (56.7 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 5-adamantyl-2-amino-1,3,4-thiadiazole | 80.0 mg | C12(CC3CC(CC(C1)C3)C2)C2=NN=C(S2)N | C12H17N3S
product | (2S,4S)-1-[[N-[4-[N-(5-adamantyl-1,3,4-thiadiazol-2-yl)amino]carbonylbicyclo[2.2.2)oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 56.7 mg | C12(CC3CC(CC(C1)C3)C2)C2=NN=C(S2)NC(=O)C23CCC(CC2)(CC3)NCC(=O)N3[C@@H](C[C@@H](C3)F)C#N | C28H37FN6O2S
